US03980795
A solution of 36.5 g of 3-bromo-3-(4'-fluoro-4-biphenylyl)-butyric acid ethyl ester [obtainable from 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester and PBr3 ] and 7 g of hydrazine in 200 ml of dioxane is boiled for 2 hours and is evaporated. Working up gives 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 194°-196°.

reactant | 3-bromo-3-(4'-fluoro-4-biphenylyl)-butyric acid ethyl ester | 36.5 g | C(C)OC(CC(C)(C1=CC=C(C=C1)C1=CC=C(C=C1)F)Br)=O | C18H18BrFO2
reactant | hydrazine | 7 g | NN | H4N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1(NNC(C1)=O)C | C16H15FN2O
